US04636523
In a manner similar to Step A of Example 1, the reaction of 16.3 g (0.10 mole) 2,6-dichlorophenol, 13.8 g (0.10 mole) potassium carbonate, 1.0 g (0.013 mole) propanethiol, 62.0 g (0.20 mole) 1,2-dibromohexafluoropropane, and 125 ml of N,N-dimethylformamide produced 33.0 g of 2-(2-bromo-1,1,2,3,3,3-hexafluoropropanoxy)-1,3-dichlorobenzene as an oil. The ir spectra was consistent with the proposed structure.

reactant | 2,6-dichlorophenol | 0.10 mole, 16.3 g | ClC1=C(C(=CC=C1)Cl)O | C6H4Cl2O
reactant | potassium carbonate | 0.10 mole, 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | propanethiol | 0.013 mole, 1.0 g | C(CC)S | C3H8S
reactant | 1,2-dibromohexafluoropropane | 0.20 mole, 62.0 g | BrC(C(C(F)(F)F)(Br)F)(F)F | C3Br2F6
solvent | N,N-dimethylformamide | 125 ml | CN(C=O)C | C3H7NO
product | 2-(2-bromo-1,1,2,3,3,3-hexafluoropropanoxy)-1,3-dichlorobenzene | 33.0 g | BrC(C(OC1=C(C=CC=C1Cl)Cl)(F)F)(C(F)(F)F)F | C9H3BrCl2F6O
